US07345056B2
Aqueous sodium hydroxide (3 N, 0.39 mL, 1.18 mmol) was added to a stirring solution of 12-(4-chloro-benzenesulfonyl)-4,5,10,12-tetraaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene-5,10-dicarboxylic acid dimethyl ester (270 mg, 0.594 mmol) in THF (1 mL). The reaction mixture was stirred for 3 h at room temperature and subsequently diluted with methylene chloride (10 mL) and water (5 mL). The phases were separated and the aqueous layer was extracted with methylene chloride (2×5 mL). The organic extracts were combined, dried (Na2SO4), filtered, concentrated and purified by preparative HPLC to give 12-(4-chloro-benzenesulfonyl)-4,5,10,12-tetraaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene-10-carboxylic acid methyl ester as a white solid. Retention time (min)=1.435, method [1], MS(ESI) 397.13 (M+H); 1H NMR (300 MHz, CDCl3) δ 7.60 (d, J=8.2 Hz, 2H), 7.50 (s, 1H), 7.35 (d, J=8.2 Hz, 2H), 5.21 (s, 1H), 4.41 (s, 1H), 4.19-4.01 (m, 1H), 3.90 (d, J=13.2 Hz, 1H), 3.60-3.40 (m, 3H), 3.35-3.14 (m, 2H), 2.85-2.80 (m, 1H), 2.71 (d, J=17.6 Hz, 1H).

reactant | sodium hydroxide | 1.18 mmol, 3 N, 0.39 mL | [OH-].[Na+]
reactant | 12-(4-chloro-benzenesulfonyl)-4,5,10,12-tetraaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene-5,10-dicarboxylic acid dimethyl ester | 0.594 mmol, 270 mg | COC(=O)N1N=CC=2C3CN(CC(CC12)N3S(=O)(=O)C3=CC=C(C=C3)Cl)C(=O)OC | C18H19ClN4O6S
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | 5 mL | O | H2O
product | 12-(4-chloro-benzenesulfonyl)-4,5,10,12-tetraaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene-10-carboxylic acid methyl ester | COC(=O)N1CC2CC=3NN=CC3C(C1)N2S(=O)(=O)C2=CC=C(C=C2)Cl | C16H17ClN4O4S
